US04725610
N-Bromosuccinimide (2.75 g) was added portionwise to a solution of 5-{4-[2-(5-methyl-2-phenyl-4-oxazolyl)ethoxy]benzyl}-2,4-thiazolidinedione (6.0 g) and α,α'-azobisisobutyronitrile (0.5 g) in carbon tetrachloride(150 ml) under reflux. After refluxing for another 10 minutes, the reaction mixture was washed with water and dried (MgSO4). The solvent was distilled off to give 5-{4-[2-(5-bromomethyl-2-phenyl-4-oxazolyl)ethoxy]benzyl}-2,4-thiazolidinedione as a crude oily substance (about 8 g). IR (neat) cm-1 : 1750, 1690. NMRδ(ppm) in CDCl3 : 3.03 (2 HtJ=7 Hz), 2.9 to 3.2 (1H, m), 3.48 (1H, d.d, J=14 and 5 Hz), 4.24 (2H, t, J=7 Hz), 4.45 (1h, d.d, J=9 and 5 Hz), 4.61 (2H, s), 6.81 (2H, d, J=9 Hz), 7.10 (2H, d, J=9 Hz), 7.4 (3H, m), 8.0 (2H, m), 8.70 (1H, broad s).

reactant | N-Bromosuccinimide | 2.75 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | 5-{4-[2-(5-methyl-2-phenyl-4-oxazolyl)ethoxy]benzyl}-2,4-thiazolidinedione | 6.0 g | CC1=C(N=C(O1)C1=CC=CC=C1)CCOC1=CC=C(CC2C(NC(S2)=O)=O)C=C1 | C22H20N2O4S
reactant | α,α'-azobisisobutyronitrile | 0.5 g | N(=NC(C#N)(C)C)C(C#N)(C)C | C8H12N4
solvent | carbon tetrachloride | 150 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | 5-{4-[2-(5-bromomethyl-2-phenyl-4-oxazolyl)ethoxy]benzyl}-2,4-thiazolidinedione | BrCC1=C(N=C(O1)C1=CC=CC=C1)CCOC1=CC=C(CC2C(NC(S2)=O)=O)C=C1 | C22H19BrN2O4S
